US04838924
Under ice cooling, AlCl3 (3 molar equivalent) was added little by little to a solution composed of 11 g of resorcinol, 12.7 g of 2-chloropropionyl chloride and 120 ml of nitrobenzene. After the addition, the mixture was heated at 40° to 50° C. for 4 hours with stirring. The reaction mixture was worked up and purified in a customary manner to give 4.1 g of 2,3-dihydro-7-hydroxy-4-oxobenzopyran. The resulting compound was benzylated, reduced with sodium borohydride in methanol, and then methylated with methyl iodide in tetrahydrofuran in the presence of sodium hydride. In a customary manner, the methylated product was hydrogenated to give 1.7 g (yield 9.4%) of the desired product as a colorless liquid.

reactant | AlCl3 | 3 molar | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | resorcinol | 11 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | 2-chloropropionyl chloride | 12.7 g | ClC(C(=O)Cl)C | C3H4Cl2O
solvent | nitrobenzene | 120 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 2,3-dihydro-7-hydroxy-4-oxobenzopyran | 4.1 g | OC1=CC2=C(C(CCO2)=O)C=C1 | C9H8O3
